US06352982B1
N-Methyl-N-methyloxy-2-amino-5-(3-phenylpropyloxy)benzamide (1.0 g) and N-tert-butoxycarbonyl 3-bromobenzylamine (0.92 g) were dissolved in tetrahydrofuran (20 ml). The solution was cooled to −70° C., to which was added dropwise, while stirring, 12 ml of a hexane solution of n-butyl lithium (1.6 mol/L) over 20 minutes. To the mixture was then added water (50 ml) and ethyl acetate (50 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-amino-3′-tert-butoxycarbonylaminomethyl-5-(3-phenylpropyloxy)benzophenone as a yellow oily product (0.75 g).

reactant | N-Methyl-N-methyloxy-2-amino-5-(3-phenylpropyloxy)benzamide | 1.0 g | CN(C(C1=C(C=CC(=C1)OCCCC1=CC=CC=C1)N)=O)OC | C18H22N2O3
reactant | N-tert-butoxycarbonyl 3-bromobenzylamine | 0.92 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)Br | C12H16BrNO2
reactant | hexane | 12 ml | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 mol/L | C(CCC)[Li]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-amino-3′-tert-butoxycarbonylaminomethyl-5-(3-phenylpropyloxy)benzophenone | NC1=C(C(=O)C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)C=C(C=C1)OCCCC1=CC=CC=C1 | C28H32N2O4
